US04402960
At 0° a diazonium salt solution prepared from 2.5 g of 4-fluoroaniline, 1.58 g of sodium nitrite, and 10 ml of 6 N hydrochloric acid is added dropwise to a solution of 6.25 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole in a mixture of 240 ml of dimethylformamide, 10 ml of 2 N sodium hydroxide solution, and 1.45 g of pulverized copper. The solution assumes a reddish brown color under evolution of nitrogen. The mixture is agitated for another 3 hours, the solution is concentrated under vacuum, and the residue is distributed between water and ethyl acetate. The organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is chromatographed over a column on 500 g of silica gel. Elution with acetone/hexane 2:3 yields 3.09 g of 4,5-bis(4-methoxyphenyl)-2-(4-fluorophenylthio)imidazole, mp 106° after recrystallization from hot diisopropyl ether/methylene chloride.

reactant | 4-fluoroaniline | 2.5 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium nitrite | 1.58 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 6.25 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
catalyst | copper | 1.45 g | [Cu] | Cu
product | 4,5-bis(4-methoxyphenyl)-2-(4-fluorophenylthio)imidazole | 3.09 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC=C(C=C1)F | C23H19FN2O2S
